US04738970
5.0 Grams of 8-acetoxy-4-allyloxy-3-methyl-5,6,7,8-tetrahydroquinoline was dissolved in 20 ml of methanol. Then a solution prepared by dissolving 2.3 g of sodium hydroxide in 20 ml of water was added thereto, and the mixture was refluxed for 1 hour. After the reaction was completed, methanol was removed by evaporation, and to the residue thus obtained was added water, and was extracted with chloroform. The chloroform layer was washed with an aqueous solution saturated with sodium chloride, then dried with anhydrous magnesium sulfate. Chloroform was removed by evaporation to obtain 3.5 g of 4-allyloxy-8-hydroxy-3-methyl-5,6,7,8-tetrahydroquinoline in the form of brown oily substance.

reactant | 8-acetoxy-4-allyloxy-3-methyl-5,6,7,8-tetrahydroquinoline | C(C)(=O)OC1CCCC=2C(=C(C=NC12)C)OCC=C | C15H19NO3
reactant | sodium hydroxide | 2.3 g | [OH-].[Na+]
solvent | methanol | 20 ml | CO | CH4O
solvent | water | 20 ml | O | H2O
product | 4-allyloxy-8-hydroxy-3-methyl-5,6,7,8-tetrahydroquinoline | 3.5 g | C(C=C)OC1=C(C=NC=2C(CCCC12)O)C | C13H17NO2
